US04337353
5.425 g of 6-[3'-(4-chlorobenzoyl)-2'-methyl-phenyl]-hex-5-enoic acid dissolved in 100 ml of ethanol in the presence of 110 mg of platinum oxide had hydrogen pased therethrough and then the catalyst was filtered off. The filtrate was evaporated to dryness and the residue was taken up in ether. The solution was treated with activated carbon, filtered and evaporated to dryness. The residue was crystallized from a 1:1 isopropyl ether-petroleum ether mixture to obtain 4.34 g of 6-[3'-(4-chlorobenzoyl)-2'-methyl-phenyl]-hexanoic acid melting at 82° C.

reactant | 6-[3'-(4-chlorobenzoyl)-2'-methyl-phenyl]-hex-5-enoic acid | 5.425 g | ClC1=CC=C(C(=O)C=2C(=C(C=CC2)C=CCCCC(=O)O)C)C=C1 | C20H19ClO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | platinum oxide | 110 mg | [Pt]=O
product | 6-[3'-(4-chlorobenzoyl)-2'-methyl-phenyl]-hexanoic acid | 4.34 g | ClC1=CC=C(C(=O)C=2C(=C(C=CC2)CCCCCC(=O)O)C)C=C1 | C20H21ClO3
